US09340538B2
Step C: Ethyl 1-benzyl-4-methylpiperazine-2-carboxylate
Ethyl 1-benzylpiperazine-2-carboxylate (3.03 g, 12.2 mmol) was reacted with iodomethane (1.73 g, 12.2 mmol) according to the procedure as described in Example 48, Step A to give the title compound as yellow oil (2.33 g, 73%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 1-benzylpiperazine-2-carboxylate | 12.2 mmol, 3.03 g | C(C1=CC=CC=C1)N1C(CNCC1)C(=O)OCC | C14H20N2O2
reactant | iodomethane | 12.2 mmol, 1.73 g | IC | CH3I
product | Ethyl 1-benzyl-4-methylpiperazine-2-carboxylate | 2.33 g, 73% | C(C1=CC=CC=C1)N1C(CN(CC1)C)C(=O)OCC | C15H22N2O2
